US04810769
To a slurry of 106.5 g of 2,6-dinitrobenzoic acid in 1000 ml of toluene was added with stirring 133.2 g of diisobutylamine. Next 44.9 g of phosphorus oxychloride was added dropwise at such a rate to maintain the temperature below 40° C. The mixture was heated to 50° C. for 12 hrs and poured into 500 ml of aqueous 5% NaHCO3 solution with stirring. The organic layer was separated, washed with 500 ml water, and the toluene removed under reduced pressure. The remaining solid was recrystallized from hot ethanol to give 105.2 g of N,N-diisobutyl-2,6-dinitrobenzamide, a yellow solid, mp 97°-99° C.

reactant | 2,6-dinitrobenzoic acid | 106.5 g | [N+](=O)([O-])C1=C(C(=O)O)C(=CC=C1)[N+](=O)[O-] | C7H4N2O6
reactant | diisobutylamine | 133.2 g | C(C(C)C)NCC(C)C | C8H19N
reactant | phosphorus oxychloride | 44.9 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | N,N-diisobutyl-2,6-dinitrobenzamide | 105.2 g | C(C(C)C)N(C(C1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-])=O)CC(C)C | C15H21N3O5
